US07795257B2
The title A compound, 1-(4-bromo-benzenesulfonyl)-4-methyl-piperazine (5.00 g, 15.663 mmol), ethyl acetoacetate (2.97 mL, 23.495 mmol), 2-(di-tert-butylphosphino)-2-methyl biphenyl (98 mg, 0.313 mmol), palladium acetate (105 mg, 0.157 mmol) and potassium phosphate (9.97 g, 46.989 mmol) are charged to a flask. Toluene (60 mL) is added. The reaction is heated at 90° C. overnight, then cooled to RT. The reaction mixture is poured onto ethyl acetate and water. The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated to afford a brown oil. This is chromatographed using 0→20% methanol in ethyl acetate to afford [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester as a tan solid which contains ˜8% of the acylated material: LC/MS 327.1 (M+1); 1H NMR (400 MHz, DMSO-D6) δ 1.2 (t, J=7.1 Hz, 3 H) 2.1 (s, 3 H) 2.3 (m, 4 H) 2.9 (d, J=4.3 Hz, 4 H) 3.8 (s, 2 H) 4.1 (q, J=7.1 Hz, 2 H) 7.5 (d, J=8.3 Hz, 2 H) 7.6 (d, 7.7 (m, 2 H). C. 3-Cyclopentyl-2-[4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-propionic Acid Ethyl ester

reactant | 1-(4-bromo-benzenesulfonyl)-4-methyl-piperazine | 15.663 mmol, 5.00 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C11H15BrN2O2S
reactant | ethyl acetoacetate | 23.495 mmol, 2.97 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 2-(di-tert-butylphosphino)-2-methyl biphenyl | 0.313 mmol, 98 mg | C(C)(C)(C)P(C1(C(=CC=CC1)C1=CC=CC=C1)C)C(C)(C)C | C21H31P
reactant | potassium phosphate | 46.989 mmol, 9.97 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.157 mmol, 105 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | Toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(4-methyl-piperazine-1-sulfonyl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C15H22N2O4S
